US04824840
20.0 grams of 6-chloro-7-hydroxy-3,4-dihydrocarbostyril and 3.7 g of sodium hydroxide are mixed with 100 ml of methanol and stirred for 3 hours, then 150 ml of epichlorohydrin is added thereto and heated for 5 hours under refluxing conditions. After the reaction is completed, the reaction mixture is concentrated under reduced pressure to dryness. The residue thus obtained is mixed with 100 ml of 2N-sodium hydroxide and stirred well. The insoluble matter is separated by filtration, washed with water and dried. The crude crystals thus obtained are recrystallized from methanol-ethanol to obtain 19.7 g of 6-chloro-7-(2,3-epoxypropoxy)-3,4-dihydrocarbostyril in the form of colorless crystals with a melting point of 190°-192° C.

reactant | 6-chloro-7-hydroxy-3,4-dihydrocarbostyril | 20.0 grams | ClC=1C=C2CCC(NC2=CC1O)=O | C9H8ClNO2
reactant | sodium hydroxide | 3.7 g | [OH-].[Na+]
reactant | epichlorohydrin | 150 ml | C(Cl)C1CO1 | C3H5ClO
solvent | methanol | 100 ml | CO | CH4O
product | 6-chloro-7-(2,3-epoxypropoxy)-3,4-dihydrocarbostyril | 19.7 g | ClC=1C=C2CCC(NC2=CC1OCC1CO1)=O | C12H12ClNO3
